US07825109B2
N-{3-hydroxy-2-[4-(3-phenylpropoxy)benzyl]propyl}-β-alanine
To a solution of tert-butyl N-{3-hydroxy-2-[4-(3-phenylpropoxy)benzyl]propyl}-β-alaninate (65 mg; prepared by following the procedure of Example 4 using the compound prepared in Example 15 as a substitute for 4-(3-aminopropyl)phenol) in dichloromethane (3 mL), trifluoroacetic acid (3 mL) was dropped at 0° C., followed by stirring at room temperature for 2 hours. Then, the reaction mixture was concentrated. The residue was purified by silica gel column chromatography (chloroform:methanol:aqueous ammonia=80:20:4). The crude product thus obtained was washed with diethyl ether to give the title compound (38 mg) having the following physical properties.

reactant | tert-butyl N-{3-hydroxy-2-[4-(3-phenylpropoxy)benzyl]propyl}-β-alaninate | OCC(CNCCC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCCCC1=CC=CC=C1 | C26H37NO4
reactant | 4-(3-aminopropyl)phenol | NCCCC1=CC=C(C=C1)O | C9H13NO
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-{3-hydroxy-2-[4-(3-phenylpropoxy)benzyl]propyl}-β-alanine | 38 mg | OCC(CNCCC(=O)O)CC1=CC=C(C=C1)OCCCC1=CC=CC=C1 | C22H29NO4
